US07220862B2
(±)-3-(7,7-Dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
To a solution of 2-amino-3-(7,7-dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-propionic acid methyl ester (250 mg, 1 equiv) in tetrahydrofuran (4 mL, 0° C.) was added carbonyl diimidazole (162 mg, 1 equiv). After 5 min, the ice bath was removed and the reaction stirred at room temperature for 30 min. To this was added 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (250 mg, 1.1 equiv) in one portion, and the reaction stirred overnight. The reaction was concentrated and purified by column chromatography to give 228 mg (45%). 1H-NMR (CDCl3, 500 MHz) δ 1.30 (s, 3H), 1.31 (s, 3H), 1.60–1.80 (m, 4H), 2.43 (d, J=11.6, 1H), 2.53 (d, J=11.3, 1H), 2.80–2.95 (m, 4H), 3.51 (dd, J=20.4, 13.1, 2H), 3.74 (s, 3H), 4.00 (d, J=13.7, 1H), 4.10 (d, J=12.2, 1H), 4.25 (dd, J=16.2, 14.4, 2H), 4.86 (m, 2H), 6.66 (d, J=7.6, 1H), 6.92 (dd, J=7.6, 7.3, 1H), 7.02 (d, J=7.3, 1H), 7.14 (dd, J=7.6, 7.6, 1H), 7.24 (s, 1H). Mass spec.: 510.27 (MH)+.

reactant | 2-amino-3-(7,7-dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-propionic acid methyl ester | 250 mg, 1 equiv | COC(C(CN1CC2=C(C(C1)(C)C)NN=C2)N)=O | C12H20N4O2
reactant | carbonyl diimidazole | 162 mg, 1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 250 mg, 1.1 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (±)-3-(7,7-Dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CN1CC2=C(C(C1)(C)C)NN=C2)NC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O | C26H35N7O4
